US04234595
Procedure 71A. 1-[[2-(5-BROMO-3-INDOLYL)-1,1-DIMETHYLETHYL]AMINO]-3-(2-METHYLPHENOXY)-2-PROPANOL HYDROCHLORIDE
(2-Methylphenoxymethyl)oxirane, 4.1 g. (0.025 mole) and 6.65 g. (0.025 mole) of 5-bromo-α,α-dimethyl-1H-indol-3-yl-ethaneamine were mixed and heated at 140° for 1 hr. The mixture was then cooled and dissolved in 40 ml. of acetonitrile while still warm. The product was converted to the hydrochloride salt by treatment of the solution with 5 N ethanolic HCl. The solvent was removed by distillation and the residue dissolved in 30 ml. of acetonitrile. The product crystallized from this solution, yield 11.0 g., m.p. 197°-199°. This material was recrystallized from methanol/isopropanol, yield 8.0 g., m.p. 198.0°-200.0° dec. (corr.).

reactant | (2-Methylphenoxymethyl)oxirane | CC1=C(OCC2OC2)C=CC=C1 | C10H12O2
reactant | 5-bromo-α,α-dimethyl-1H-indol-3-yl-ethaneamine | 0.025 mole | BrC=1C=C2C(=CNC2=CC1)CC(N)(C)C | C12H15BrN2
reactant | HCl | 5 N | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[[2-(5-BROMO-3-INDOLYL)-1,1-DIMETHYLETHYL]AMINO]-3-(2-METHYLPHENOXY)-2-PROPANOL HYDROCHLORIDE | Cl.BrC=1C=C2C(=CNC2=CC1)CC(C)(C)NCC(COC1=C(C=CC=C1)C)O | InChI=1S/C22H27BrN2O2.ClH/c1-15-6-4-5-7-21(15)27-14-18(26)13-25-22(2,3)11-16-12-24-20-9-8-17(23)10-19(16)20;/h4-10,12,18,24-26H,11,13-14H2,1-3H3;1H
